US05965606
8-Bromo-2,2,4,4-tetramethyl-6-chromanoic acid (Compound P)
To a solution of 2,2,4,4-tetramethyl-6-chromanoic acid (200 mg, 0.85 mmol) in 0.5 ml of AcOH was added Br2 (0.07 ml, 1.28 mmol). The resulting dark-orange solution was stirred at room temperature for overnight. The excess bromine was removed under reduced pressure. Then the solution was poured into 5 ml of water and extracted with ethyl acetate (3×3 ml). The combined ethyl acetate layers were further washed with NaHCO3 (sat.), brine and dried over MgSO4. After concentration, the residue was purified by column chromatography (silica gel, ethyl acetate/hexane 1/3) to yield the desired product (170 mg, as white solids.

reactant | 2,2,4,4-tetramethyl-6-chromanoic acid | 0.85 mmol, 200 mg | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(=O)O)C | C14H18O3
reactant | Br2 | 1.28 mmol, 0.07 ml | BrBr | Br2
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
product | 8-Bromo-2,2,4,4-tetramethyl-6-chromanoic acid | BrC=1C=C(C=C2C(CC(OC12)(C)C)(C)C)C(=O)O | C14H17BrO3
